US06127379
a) Methyl-6-bromothiochroman-8-carboxylate
A solution of methylthiochroman-8 carboxylate (0.300 g, 1.44 mmol) (D6a) in dichloromethane (20 ml) was treated with bromine (0.106 ml, 2.07 mmol) and the reaction mixture left at room temperature. After 4 days the reaction mixture was washed with sodium metabisulphile solution. The organic layer was then dried (Na2SO4) and evaporated under reduced pressure to give the title compound as a colourless oil (0.340 g, 82%).

reactant | methylthiochroman-8 carboxylate | 1.44 mmol, 0.300 g | COC(=O)C=1C=CC=C2CCCSC12 | C11H12O2S
reactant | bromine | 2.07 mmol, 0.106 ml | BrBr | Br2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl-6-bromothiochroman-8-carboxylate | 0.340 g, 82% | COC(=O)C=1C=C(C=C2CCCSC12)Br | C11H11BrO2S
